US06803380B1
c) 1-(4-chloro-phenyl)-5-(4-methylsulfonyl-phenyl)-3-phenyl-1H-1,2,4-triazole
To a solution of 1-(4-chloro-phenyl)-5-(4-methylthio-phenyl)-3-phenyl-1H-1,2,4-triazole (130 mg, 0.34 mmol) in CHCl3 (5 ml) were added 2 equivalents of MCPBA (200 mg, 6.88 mmol). The reaction mixture was stirred for two days at room temperature, then sodium hydrosulfite was added and the resulting mixture was neutralized with concentrated NaOH. After extraction with chloroform, the organic phase was washed with water and dried over sodium sulfate. Evaporation under pressure and crystallization from ethanol yielded a white solid (50 mg, 36%) m.p. 170° C.

reactant | 1-(4-chloro-phenyl)-5-(4-methylthio-phenyl)-3-phenyl-1H-1,2,4-triazole | 0.34 mmol, 130 mg | ClC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)SC)C1=CC=CC=C1 | C21H16ClN3S
reactant | MCPBA | 6.88 mmol, 200 mg, 2 equivalents | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-chloro-phenyl)-5-(4-methylsulfonyl-phenyl)-3-phenyl-1H-1,2,4-triazole | 50 mg, 36% | ClC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1 | C21H16ClN3O2S
